US06974831B2
G. Preparation of 2-[(1-benzyl-2-ethyl-6,7,8,9-tetrahydro-1H-benz[g]indol-4-yl)oxy]acetic acid methyl ester
A solution of 1-benzyl-2-ethyl-4-methoxy-6,7,8,9-tetrahydro-1H-benz[g]indole (660 mg, 2.07 mmol) in methylene chloride (10 mL) was cooled to 0° C. and treated with boron tribromide (0.38 mL, 4.0 mmol). The mixture was stirred for 10 min, poured into ice water, and extracted twice with methylene chloride. The combined methylene chloride layers were washed once with saturated sodium bicarbonate solution, dried (sodium sulfate), filtered, and concentrated in vacuo. The residue was dissolved in N,N-dimethylformamide (10 mL) and treated with cesium carbonate (652 mg, 2.00 mmol) and methyl bromoacetate (0.28 mL, 2.0 mmol) at room temperature for 3 h. The mixture was diluted with water and extracted three times with ether. The combined ether extracts were washed once with water, dried (magnesium sulfate), filtered, and concentrated in vacuo. Chromatography (silica gel, methylene chloride) provided 479 mg (62%) of the title compound as an off-white solid. 1H NMR (CDCl3) δ 7.25 (m, 3H), 6.85 (d, J=7.6 Hz, 2H), 6.52 (s, 1H), 6.16 (s, 1H), 5.57 (s, 2H), 4.79 (s, 2H), 3.86 (s, 3H), 2.97 (m, 2H), 2.84 (m, 2H), 2.59 (q, J=7.3 Hz, 2H), 1.72 (m, 4H), 1.32 (t, J=7.3 Hz, 3H); MS ES+ m/e 378 (p+1); IR (CHCl3, cm1) 2830, 1756, 1732.

reactant | 1-benzyl-2-ethyl-4-methoxy-6,7,8,9-tetrahydro-1H-benz[g]indole | 2.07 mmol, 660 mg | C(C1=CC=CC=C1)N1C(=CC2=C(C=C3C(=C12)CCCC3)OC)CC | C22H25NO
reactant | boron tribromide | 4.0 mmol, 0.38 mL | B(Br)(Br)Br | BBr3
reactant | cesium carbonate | 2.00 mmol, 652 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl bromoacetate | 2.0 mmol, 0.28 mL | BrCC(=O)OC | C3H5BrO2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 2-[(1-benzyl-2-ethyl-6,7,8,9-tetrahydro-1H-benz[g]indol-4-yl)oxy]acetic acid methyl ester | 479 mg, 62% | COC(COC1=C2C=C(N(C2=C2C(=C1)CCCC2)CC2=CC=CC=C2)CC)=O | C24H27NO3
